US04399134
5-(4-Hydroxy-1-piperidyl)-6-fluoro-8-aminoquinaldine (2.0 g) was dissolved in 7 ml of water and 20 ml of concentrated hydrochloric acid and 0.53 g of sodium nitrite in 3 ml of an aqueous solution was added dropwise to the solution at 0° C. After 5 minutes, one drop of n-octanol (defoaming agent) and then 0.46 g of copper powder were added to the mixture at a time. Foaming was observed immediately. After foaming stopped the reaction mixture was stirred for additional 3 minutes at 0°-5° C. The reaction mixture was diluted with water and rendered alkaline with an aqueous sodium hydroxide solution to precipitate solids which were then collected by filtration and dissolved in mixed solvent of methanol-chloroform to remove insoluble substances. After concentration, the residue was purified through silica gel column chromatography (chloroform:methanol=5:1) to give 1.62 g of 5-(4-hydroxy-1-piperidyl)-6-fluoro-8-chloroquinaldine.

reactant | 5-(4-Hydroxy-1-piperidyl)-6-fluoro-8-aminoquinaldine | 2.0 g | OC1CCN(CC1)C1=C2C=CC(=NC2=C(C=C1F)N)C | C15H18FN3O
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | sodium nitrite | 0.53 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 7 ml | O | H2O
catalyst | n-octanol | one drop | C(CCCCCCC)O | C8H18O
catalyst | copper | 0.46 g | [Cu] | Cu
product | 5-(4-hydroxy-1-piperidyl)-6-fluoro-8-chloroquinaldine | 1.62 g | OC1CCN(CC1)C1=C2C=CC(=NC2=C(C=C1F)Cl)C | C15H16ClFN2O
